US05840732
iv) Synthesis of 6-[4-(imidazo[1,2-a]pyridin-5-ylthio)-butyl]-1,1-dioxo-8-phenyl-2,3-dihydro-5H-thiazolo[3,2-c]pyrimidine-5,7(6H)-dione
To a suspension of 60 mg (1.5 mmol) of 60% oily sodium hydride in 10 ml of N,N-dimethylformamide, 225 mg (1.5 mmol) of 5-mercaptoimidazo[1,2-a]pyridine was added at room temperature, followed by stirring for 10 minutes. To this mixture, 480 mg (1.3 mmol) of 6-(4-chlorobutyl)-1,1-dioxo-8-phenyl-2,3-dihydro-5H-thiazolo[3,2-c]pyrimidine-5,7(6H)-dione and 225 mg (1.5 mmol) of sodium iodide were added, followed by stirring at 80° C. for 3 hours. After cooling, the reaction mixture was poured into water and extracted with ethyl acetate 3 times. The organic layer was washed with water and dried, after which the solvent was distilled off. The residue was purified by column chromatography (eluent, ethyl acetate/ethanol=10/1) to yield 400 mg (65.7%, white foamy substance) of the desired product.

reactant | sodium hydride | 1.5 mmol, 60 mg | [H-].[Na+]
reactant | 5-mercaptoimidazo[1,2-a]pyridine | 1.5 mmol, 225 mg | SC1=CC=CC=2N1C=CN2 | C7H6N2S
reactant | 6-(4-chlorobutyl)-1,1-dioxo-8-phenyl-2,3-dihydro-5H-thiazolo[3,2-c]pyrimidine-5,7(6H)-dione | 1.3 mmol, 480 mg | ClCCCCN1C(N2C(=C(C1=O)C1=CC=CC=C1)S(CC2)(=O)=O)=O | C16H17ClN2O4S
reactant | sodium iodide | 1.5 mmol, 225 mg | [I-].[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-[4-(imidazo[1,2-a]pyridin-5-ylthio)-butyl]-1,1-dioxo-8-phenyl-2,3-dihydro-5H-thiazolo[3,2-c]pyrimidine-5,7(6H)-dione | N=1C=CN2C1C=CC=C2SCCCCN2C(N1C(=C(C2=O)C2=CC=CC=C2)S(CC1)(=O)=O)=O | C23H22N4O4S2
